US04705786
To a cooled mixture of 2.8 g of 1-benzyl-1-methylhydroxyguanidine and 1.3 g of triethylamine in 30 ml of benzene was added dropwise 1.3 ml of diketene under nitrogen. The reaction mixture was stirred at room temperature for 2 hours and then concentrated in vacuo. After adding 50 ml of toluene to the residue, the resultant solution was heated under reflux for 4 hours with a water separator. The solvent was evaporated in vacuo and the residue was chromatographed on silica gel using chloroform-methanol (70:1) as eluent to give 1.7 g of 5-acetonyl-3-(N-benzyl-N-methylamino)-1,2,4-oxadiazole as a colorless oil, IR νmaxneat cm-1 : 1725, 1590, 1410, 1355, 1155.

reactant | 1-benzyl-1-methylhydroxyguanidine | 2.8 g | C(C1=CC=CC=C1)N(C(=NO)N)C | C9H13N3O
reactant | triethylamine | 1.3 g | C(C)N(CC)CC | C6H15N
reactant | diketene | 1.3 ml | C=C1CC(=O)O1 | C4H4O2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 5-acetonyl-3-(N-benzyl-N-methylamino)-1,2,4-oxadiazole | 1.7 g | C(C(=O)C)C1=NC(=NO1)N(C)CC1=CC=CC=C1 | C13H15N3O2
